US06004994
1 g (0.0045 mole) of ethyl (Z)-3-[3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-oxo-pyrrolidin-1-yl]propanoate are placed in a solution in a mixture of 15 ml of ethanol and 20 ml of water and treated with 0.28 g (1.5 eq.) of sodium hydroxide. The medium is heated at 50° C. for 4 h. The ethanol was evaporated off and the aqueous phase is then extracted with ethyl acetate, acidified with a dilute hydrochloric acid solution, and extracted with dichloromethane. The organic phase is washed with water dried and concentrated. The residue is taken up into t-butyl methyl ether. 1.6 g of (Z)-3-[3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-oxo-pyrrolidin-1-yl]propanoic acid are thus obtained as a beige solid of melting point 178-179° C.

reactant | ethyl (Z)-3-[3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-oxo-pyrrolidin-1-yl]propanoate | 0.0045 mole, 1 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C\1/C(N(CC1)CCC(=O)OCC)=O | C23H24ClNO5S
reactant | sodium hydroxide | 0.28 g, 1.5 eq. | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | (Z)-3-[3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-oxo-pyrrolidin-1-yl]propanoic acid | 1.6 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C\1/C(N(CC1)CCC(=O)O)=O | C21H20ClNO5S
